datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])=[C:9]([C:10]([H:22])([H:23])[H:24])[C:11](=[C:12]([H:26])[H:27])[H:25])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:9]1([C:10]([H:22])([H:23])[H:24])[C:11](=[C:12]([H:26])[H:27])[H:25])[H:13],116.524
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20][H:21],41.84
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30])([H:20])([H:21])[H:22]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[c:14]1[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]1[H:30],5.4392
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15](=[C:16]([H:18])[H:19])[H:17],8.368
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[S:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:10])[H:5].[C:8](=[S:9])[H:11],87.4456
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19],20.0832
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12](=[S:13])[H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:14])([H:15])[H:16])([C:12](=[S:13])[H:18])[H:17],43.0952
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:12])[H:13])([H:9])([H:10])[H:11].[O:8][H:19],39.342152
[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])=[C:5]([C:6](=[C:7]([H:13])[H:14])[H:12])[C:8](=[C:9]([H:16])[H:17])[H:15])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])[C:5]([C:6](=[C:7]([H:13])[H:14])[H:12])([C:8](=[C:9]([H:16])[H:17])[H:15])[H:18])[H:10],8.82824
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([H:14])[H:15])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:12])[H:5].[C:10](=[C:11]([H:14])[H:15])[H:13],108.784
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],58.9944
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[O:7][O:8][H:9],125.9384
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][O:12]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:11][O:12],207.9448
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])([S:11][H:16])[H:15],25.5224
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10]>>[C:0]([C:1]([O:2][O:3][H:9])[H:8])([H:4])([H:5])[H:6].[H:7][O:10],19.874
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])[H:8])[H:7],46.6516
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7](=[C:8]([H:10])[H:11])[H:9],-6.276
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],94.14
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7][C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:7](=[C:6]([H:9])[H:10])[C:8]([H:11])([H:12])[H:13],-2.7196
